US04066707
A reaction flask having an inner volume of 200 ml and provided with a thermometer, a stirrer, a reflux condenser and a dropping funnel was charged with 54.05 g (0.50 mol) of para-cresol and 0.054 g of acetonyl acetone. While the resultant mixture was continuously stirred, 5.59 g (0.025 mol) of an acetone solution of 34.0 percent by weight of peracetic acid was introduced dropwise at a temperature of 80° C over a period of 20 minutes. After termination of the dropwise introduction of the peracetic acid solution, the reaction system was stirred at the same temperature for an additional period of 50 minutes to bring the reaction to completion. Thereafter, the reaction mixture was analyzed for unaltered para-cresol and formed 4-methyl-1,2-dihydroxybenzene by gas chromatography. The results showed the conversion of para-cresol to be 4.19 percent and the selectivity for 4-methyl-1,2-dihydroxybenzene to be 73.6 percent relative to peracetic acid and 88.4 percent relative to para-cresol respectively. From the reaction mixture, acetone, formed acetic acid and para-cresol were recovered by distillation. When the recovered mixture was analyzed for acetonyl acetone by gas chromatography, the recovery ratio of acetonyl acetone was found to be 88 percent.

reactant | para-cresol | 0.50 mol, 54.05 g | C1=CC(=CC=C1O)C | C7H8O
reactant | acetonyl acetone | 0.054 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | acetone | 0.025 mol, 5.59 g | CC(=O)C | C3H6O
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | 4-methyl-1,2-dihydroxybenzene | CC1=CC(=C(C=C1)O)O | C7H8O2
